US07109186B2
Compound 788: 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (4-fluoro-2-methanesulfinyl-benzyl)-methyl-amide
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-2-methanesulfinyl-benzyl)-N-methyl-acetamide was reacted with paraformaldehyde and 2-morpholin-4-yl-ethylamine as described in Method 44 B to give the title compound as a yellow solid (0.04 g, 88% yield). 1HNMR (300 MHz, MeOD) δ: 7.72 (1H, dd, J=8.42, 2.56 Hz), 7.49 (1H, dd, J=8.79, 5.13 Hz), 7.32–7.26 (1H, m), 4.19 (2H, s), 4.09–3.46 (10H, m), 3.30–3.21 (2H, m), 3.12 (3H, s), 2.81 (3H, s).

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-2-methanesulfinyl-benzyl)-N-methyl-acetamide | CC1(OC(C(O1)=CC(=O)N(C)CC1=C(C=C(C=C1)F)S(=O)C)=O)C | C16H18FNO5S
reactant | paraformaldehyde | C=O | CH2O
reactant | 2-morpholin-4-yl-ethylamine | N1(CCOCC1)CCN | C6H14N2O
product | 4-Hydroxy-1-(2-morpholin-4-yl-ethyl)-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid (4-fluoro-2-methanesulfinyl-benzyl)-methyl-amide | 0.04 g, 88% yield | FC1=CC(=C(CN(C(=O)C=2CN(C(C2O)=O)CCN2CCOCC2)C)C=C1)S(=O)C | C20H26FN3O5S
